US07053212B2
Step A: Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (1.70 g, 4.29 mmol) and triethylamine (2.40 mL, 17.2 mmol) in methylene chloride (8–10 mL) at 0° C. was added cyclohexanecarbonyl chloride (1.72 mL, 12.87 mmol) in methylene chloride (30 mL) dropwise. The reaction mixture was stirred for 1 hr. and was quenched with water/saturated sodium bicarbonate (1/1, 40–50 mL). The layers were separated and the aqueous solution was washed with methylene chloride (2×25 mL). The combined organic solutions were dried (magnesium sulfate), filtered, and concentrated. Medium pressure chromatography using a solvent gradient (methylene chloride to 10% methanol/methylene chloride) afforded the title compound of Step A. MS 507 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 4.29 mmol, 1.70 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 17.2 mmol, 2.40 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 12.87 mmol, 1.72 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | methylene chloride | 8–10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amide | N1(CCCC1)CCOC1=CC=C(C=C1)N(C(=O)C1CCCCC1)CC1=CC=C(C=C1)OC1OCCCC1 | C31H42N2O4
